US09290511B2
Isopropylamine (0.0385 mL, 0.4472 mmol) was added to a solution of 8-(5-phenylthieno[2,3-d]pyrimidin-4-yl)-8-azabicyclo[3.2.1]octan-3-one (0.05 g, 0.1491 mmol) in DCM (2 mL). Sodium triacetoxyborohydride (0.1663 g, 0.7454 mmol) was added and the mixture was stirred at room temperature overnight. A second batch of isopropylamine (0.0385 mL, 0.4472 mmol) and sodium triacetoxyborohydride (0.1663 g, 0.7454 mmol) was added and the mixture was stirred overnight. A third batch of isopropylamine (0.0385 mL, 0.4472 mmol) and sodium triacetoxyborohydride (0.1663 g, 0.7454 mmol) was added and the mixture was stirred over three nights. Methanol (2 mL) was added to quench the reaction. The solvent was evaporated and the residue was dissolved in dichloromethane (2 mL) and water (2 mL). The layers were separated and the aqueous was extracted with dichloromethane (2×2 mL). The combined organic layers were evaporated to give a colourless oil. Mass: 77 mg. This was purified by silica chromatography (10 g cartridge; eluent dichloromethane/0.5 M ammonia in methanol 0 to 10%; all output collected). Fractions containing the target compound (by TLC and LCMS; broad peak) were combined and evaporated to give N-isopropyl-8-(5-phenylthieno[2,3-d]pyrimidin-4-yl)-8-azabicyclo[3.2.1]octan-3-amine a white solid. (19 mg). LCMS RT=3.04 min. M+1=379.

reactant | Isopropylamine | 0.4472 mmol, 0.0385 mL | C(C)(C)N | C3H9N
reactant | 8-(5-phenylthieno[2,3-d]pyrimidin-4-yl)-8-azabicyclo[3.2.1]octan-3-one | 0.1491 mmol, 0.05 g | C1(=CC=CC=C1)C1=CSC=2N=CN=C(C21)N2C1CC(CC2CC1)=O | C19H17N3OS
reactant | Sodium triacetoxyborohydride | 0.7454 mmol, 0.1663 g | C(C)(=O)O[BH-](OC(C)=O)OC(C)=O.[Na+]
reactant | isopropylamine | 0.4472 mmol, 0.0385 mL | C(C)(C)N | C3H9N
reactant | sodium triacetoxyborohydride | 0.7454 mmol, 0.1663 g | C(C)(=O)O[BH-](OC(C)=O)OC(C)=O.[Na+]
reactant | isopropylamine | 0.4472 mmol, 0.0385 mL | C(C)(C)N | C3H9N
reactant | sodium triacetoxyborohydride | 0.7454 mmol, 0.1663 g | C(C)(=O)O[BH-](OC(C)=O)OC(C)=O.[Na+]
reactant | Methanol | 2 mL | CO | CH4O
solvent | DCM | 2 mL | C(Cl)Cl | CH2Cl2
product | N-isopropyl-8-(5-phenylthieno[2,3-d]pyrimidin-4-yl)-8-azabicyclo[3.2.1]octan-3-amine | C(C)(C)NC1CC2CCC(C1)N2C=2C1=C(N=CN2)SC=C1C1=CC=CC=C1 | C22H26N4S
